US06995144B2
4-(2-Fluorobenzylsulfonyl)piperidine hydrochloride
After dissolving 690 mg of 1-(tert-butoxycarbonyl)-4-(2-fluorobenzylsulfonyl)piperidine in 3 ml of ethyl acetate, 3 ml of 4N hydrogen chloride/ethyl acetate was added and the mixture was stirred at room temperature for 30 minutes. The precipitate was filtered out to obtain the title compound (517 mg, 91% yield).

reactant | 1-(tert-butoxycarbonyl)-4-(2-fluorobenzylsulfonyl)piperidine | 690 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)S(=O)(=O)CC1=C(C=CC=C1)F | C17H24FNO4S
reactant | hydrogen chloride ethyl acetate | 4N, 3 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Fluorobenzylsulfonyl)piperidine hydrochloride | 517 mg, 91% yield | Cl.FC1=C(CS(=O)(=O)C2CCNCC2)C=CC=C1 | InChI=1S/C12H16FNO2S.ClH/c13-12-4-2-1-3-10(12)9-17(15,16)11-5-7-14-8-6-11;/h1-4,11,14H,5-9H2;1H
